Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],3.85226036724
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.53647037061
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],1.98984260699
[H:12].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][O:7][H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.66216704888
[C:7](#[C:8][H:9])[O:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[O:10][H:11],-1.3812594897
[C:1].[C:2]#[C:3][C:4](=[O:5])[H:6]>>[C:1][C:2]#[C:3][C:4](=[O:5])[H:6],-6.43770772392
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],4.62505718112
[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.09585201417
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9],4.045698505990003
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:9][H:10].[H:8]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],-2.08885439219
[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11].[H:1]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],-3.88154085175
[C:2]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8].[O:1]>>[O:1]=[C:2]=[C:3][C:4]([H:5])=[C:6]([H:7])[H:8],-7.1727077762
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],0.8447297839069999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12],4.58451731669
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[H:1][C:2][H:3],6.403664260469999
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[O:5],0.0191266514512
[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.68834827393
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[C:1]#[C:2][H:3].[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],0.660006069891
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6],1.91880835272
[H:1][O:2][C:3]([C:4]([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3](=[C:4]([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],2.76814117621
[O:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12],1.93178479672
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-3.83765691063
[C:1]#[C:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][H:7].[O:8][H:9],3.85713171388
[O:1]=[C:2][C:3]([H:4])=[C:5]=[O:6]>>[H:4].[O:1][C:2][C:3]#[C:5][O:6],1.4969274983200005
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],3.9509815004
[H:1][C:2]([H:3])([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:2][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:5]([H:3])[H:4],3.4817143884400004
[H:1][O:2][C:3]([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5](#[C:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4],3.48701736676
[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],-7.177767803089999
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[H:1][O:2][C:3]([H:4])=[C:5][H:6].[O:7][H:8],5.93797993995
